US05141955
2-(4-Methylbenzylseleno)benzoic acid
To a suspension of 20.1 g (0.05 mol) diselenosalicylic acid in 20 ml water is added 15.0 g (0.375 mol) sodium hydroxide in one portion with stirring. After dissolution 39.75 g (0.375 mol) sodium carbonate and 23.9 g (0.1375 mol) sodium dithionite are added and the mixture is heated to reflux for 2 h, allowed to cool to room temperature and 30.1 g (0.1625 mol) 4-methylbenzyl bromide in 125 ml ethanol is added dropwise within 15 minutes, followed by stirring overnight. The reaction mixture is acidified under stirring with 150 ml aqueous hydrochloric acid (32%), the white precipitate is filtered off, washed with 200 ml water and dried. The residue is purified by recrystallization from ethyl acetate.

reactant | diselenosalicylic acid | 0.05 mol, 20.1 g | C(C=1C(O)=CC=CC1)(=[Se])[SeH] | C7H6OSe2
reactant | sodium hydroxide | 0.375 mol, 15.0 g | [OH-].[Na+]
reactant | sodium carbonate | 0.375 mol, 39.75 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium dithionite | 0.1375 mol, 23.9 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-methylbenzyl bromide | 0.1625 mol, 30.1 g | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | hydrochloric acid | 150 ml | Cl | ClH
reactant | water | 20 ml | O | H2O
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 2-(4-Methylbenzylseleno)benzoic acid | CC1=CC=C(C[Se]C2=C(C(=O)O)C=CC=C2)C=C1 | C15H14O2Se
